US07186724B2
31d: Preparation of 4-[1-(3-bromo-5-methoxymethyl-thiophen-2-yl)-1-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester:
Add hydroxylamine hydrochloride (2.29 g, 45.27 mmol, 2.00 equivalents) to a stirred solution of 4-[1-(3-bromo-5-methoxymethyl-thiophen-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester (9.47 g, 22.64 mmol, 1.00 equivalents) in pyridine (42.40 mL). Stir the resulting solution at room temperature overnight and then at 70° C. for 4 hours. Cool the reaction mixture slightly, add hydrochloric acid (3N, 100 mL) and extract the resulting mixture with dichloromethane (100 mL). Wash the extract with water (100 mL), dry over magnesium sulfate, filter and evaporate to yield the desired product as a yellow oil (9.48 g).

reactant | hydroxylamine hydrochloride | 45.27 mmol, 2.29 g, 2.00 equivalents | Cl.NO
reactant | 4-[1-(3-bromo-5-methoxymethyl-thiophen-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester | 22.64 mmol, 9.47 g, 1.00 equivalents | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C=1SC(=CC1Br)COC | C17H24BrNO4S
reactant | hydrochloric acid | 3N, 100 mL | Cl | ClH
solvent | pyridine | 42.40 mL | N1=CC=CC=C1 | C5H5N
product | 4-[1-(3-bromo-5-methoxymethyl-thiophen-2-yl)-1-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 9.48 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=NO)C=1SC(=CC1Br)COC | C17H25BrN2O4S
